US06235730B1
Using 2-methoxy-acetanilide (5.0 g) and 2-bromopyridine (9.5 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate: hexane=1:1) produced 2-methoxy-N-(2-pyridyl)acetanilide (4.3 g, crude product) as a yellow oil.

reactant | 2-methoxy-acetanilide | 5.0 g | COCC(=O)NC1=CC=CC=C1 | C9H11NO2
reactant | 2-bromopyridine | 9.5 g | BrC1=NC=CC=C1 | C5H4BrN
product | 2-methoxy-N-(2-pyridyl)acetanilide | 4.3 g | COCC(=O)N(C1=CC=CC=C1)C1=NC=CC=C1 | C14H14N2O2
